US07915267B2
1,1-dimethylethyl 4-(3-cyanophenyl)piperazine-1-carboxylate
A suspension of 1,1-dimethylethyl 4-(3-bromophenyl)piperazine-1-carboxylate obtained in Reference Example 112 (3.10 g, 9.09 mmol), zinc cyanide (0.587 g, 5.00 mmol) and tetrakis(triphenylphosphine)palladium (0.525 g, 0.454 mmol) in DMF (30 mL) was stirred at 80° C. for 12 hr under nitrogen atmosphere. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (25%-40% ethyl acetate/hexane), and crystallized from hexane to give the title compound as a white powder (2.10 g, 80%).

reactant | 1,1-dimethylethyl 4-(3-bromophenyl)piperazine-1-carboxylate | BrC=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21BrN2O2
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 5.00 mmol, 0.587 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.454 mmol, 0.525 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,1-dimethylethyl 4-(3-cyanophenyl)piperazine-1-carboxylate | 2.10 g, 80% | C(#N)C=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C16H21N3O2
